US05866566
10,11-dihydro-10-methoxycarbonylpropylimino-5H-dibenz[b,f]azepine-5-carboxamide
To a suspension of 0.2 g (0.79 mmol) of 10,11-dihydro-10-oxo-5H-dibenz[b,f]azepine-5-carboxamide and 0.1 g (0.67 mmol) of methyl-4-aminobutyrate hydrochloride in 5 mL of xylene was added 0.07 g (0.49 mmol) of boron trifluoride diethyl etherate. The resulting mixture was heated at 135° C. for seven hours and then allowed to cool to room temperature. The mixture was then filtered and the residue was extracted with toluene. The combined extracts were evaporated under reduced pressure and the residue chromatographed on silica gel using a 4:1 mixture of petroleum ether-ethyl acetate. Chromatographically homogenous fractions were pooled and the solvents were removed under reduced pressure to give the desired product as a yellow oil which crystallised on standing to give yellow crystals which decomposed on heating without melting.

reactant | 10,11-dihydro-10-oxo-5H-dibenz[b,f]azepine-5-carboxamide | 0.79 mmol, 0.2 g | O=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C15H12N2O2
reactant | methyl-4-aminobutyrate hydrochloride | 0.67 mmol, 0.1 g | Cl.COC(CCCN)=O
reactant | boron trifluoride diethyl etherate | 0.49 mmol, 0.07 g | B(F)(F)F.CCOCC
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 10,11-dihydro-10-methoxycarbonylpropylimino-5H-dibenz[b,f]azepine-5-carboxamide | COC(=O)CCCN=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C20H21N3O3
